US04012432
N-Methanesulfonyl-N'-carboisopropoxy hydrazine
In a 1-liter 3-neck flask is placed 17 g. (0.5 mole) anhydrous hydrazine, 27 g. (1/4 mole) Na2CO3 and 100 cc. acetonitrile. The mixture is stirred as 57.3 g. (1/2 mole) of methanesulfonyl chloride is added slowly. The temperature of the mixture increases and CO2 is evolved. Then another 27 g. of Na2CO3 is added and the mixture is stirred as 61.5 g. (0.5 mole) of isopropyl chloroformate is added, keeping the temperature under 40° C. Finally the mixture is stirred 2 hours and then cooled to 10° C. and filtered, washed with cold water and dried. This product melts at 129°-131° C.

reactant | hydrazine | 0.5 mole | NN | H4N2
reactant | Na2CO3 | 1/4 mole | C(=O)([O-])[O-].[Na+].[Na+]
reactant | methanesulfonyl chloride | 1/2 mole | CS(=O)(=O)Cl | CH3ClO2S
reactant | CO2 | C(=O)=O | CO2
reactant | isopropyl chloroformate | 0.5 mole | ClC(=O)OC(C)C | C4H7ClO2
solvent | acetonitrile | C(C)#N | C2H3N
product | N-Methanesulfonyl-N'-carboisopropoxy hydrazine | CS(=O)(=O)NNC(=O)OC(C)C | C5H12N2O4S
